US09238640B2
Carbon tetrabromide (0.26 g, 0.77 mmol) was added to a solution of triphenylphosphine (0.24 g, 0.92 mmol) in anhydrous DMF (5 mL) at 0° C. A solution of 2-[4-(2-hydroxy-ethoxy)-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.21 g, 0.61 mmol) in DMF (2 mL) was then added dropwise and stirred at room temperature for 16 hours. Solvent was removed under reduced pressure and the residue was diluted with water (10 mL) and extracted with dichloromethane (4×10 mL). The combined organic phase was washed with brine and dried over anhydrous magnesium sulfate. Solvent was removed and the residual solid was triturated with ether. The resulting slurry was filtered and washed with ether several times (to remove the triphenylphosphine oxide) and finally with a solution of dichloromethane-ether (1:4) to obtain 2-[4-(2-bromo-ethoxy)-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as an off-white solid. Yield: 0.25 g (quantitative).

reactant | Carbon tetrabromide | 0.77 mmol, 0.26 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.92 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[4-(2-hydroxy-ethoxy)-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.61 mmol, 0.21 g | OCCOC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H18N2O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-bromo-ethoxy)-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | BrCCOC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H17BrN2O4
